CMOS Ring Oscillator

Vdd 1 0 5.0v
Vss 2 0 0.0v

X1 1 2 3 4 INV
X2 1 2 4 5 INV
X3 1 2 5 33 INV
*X4 1 2 6 7 INV
*X5 1 2 7 8 INV
*X6 1 2 8 9 INV
*X7 1 2 9 3 INV

* pulse to start oscillation
Vstart 33 3 dc 0 pulse(0 2.5 0.5n 1n 1n 1n 1)

.SUBCKT INV 1   2   3   4
*           Vdd Vss Vin Vout
M1  14 13 15 16 M_PMOS w=6.0u
M2  24 23 25 26 M_NMOS w=3.0u

Vgp 3 13 0.0v
Vdp 4 14 0.0v
Vsp 1 15 0.0v
Vbp 1 16 0.0v

Vgn 3 23 0.0v
Vdn 4 24 0.0v
Vsn 2 25 0.0v
Vbn 2 26 0.0v
.ENDS INV

.model M_NMOS numos
+ x.mesh l=0.0 n=1
+ x.mesh l=0.6 n=4
+ x.mesh l=0.7 n=5
+ x.mesh l=1.0 n=7
+ x.mesh l=1.2 n=11
+ x.mesh l=3.2 n=21
+ x.mesh l=3.4 n=25
+ x.mesh l=3.7 n=27
+ x.mesh l=3.8 n=28
+ x.mesh l=4.4 n=31
+
+ y.mesh l=-.05 n=1
+ y.mesh l=0.0  n=5
+ y.mesh l=.05  n=9
+ y.mesh l=0.3  n=14
+ y.mesh l=2.0  n=19
+
+ region num=1 material=1 y.l=0.0
+ material num=1 silicon
+ mobility material=1 concmod=sg fieldmod=sg
+ mobility material=1 elec major
+ mobility material=1 elec minor
+ mobility material=1 hole major
+ mobility material=1 hole minor
+
+ region num=2 material=2 y.h=0.0 x.l=0.7 x.h=3.7
+ material num=2 oxide
+
+ elec num=1 x.l=3.8 x.h=4.4	y.l=0.0 y.h=0.0
+ elec num=2 x.l=0.7 x.h=3.7	iy.l=1  iy.h=1
+ elec num=3 x.l=0.0 x.h=0.6	y.l=0.0 y.h=0.0
+ elec num=4 x.l=0.0 x.h=4.4	y.l=2.0 y.h=2.0
+
+ doping unif p.type conc=2.5e16 x.l=0.0 x.h=4.4  y.l=0.0 y.h=2.0
+ doping unif p.type conc=1e16   x.l=0.0 x.h=4.4  y.l=0.0 y.h=0.05
+ doping unif n.type conc=1e20   x.l=0.0 x.h=1.1  y.l=0.0 y.h=0.2
+ doping unif n.type conc=1e20   x.l=3.3 x.h=4.4  y.l=0.0 y.h=0.2
+
+ models concmob fieldmob bgn srh conctau
+ method ac=direct onec

.model M_PMOS numos
+ x.mesh l=0.0 n=1
+ x.mesh l=0.6 n=4
+ x.mesh l=0.7 n=5
+ x.mesh l=1.0 n=7
+ x.mesh l=1.2 n=11
+ x.mesh l=3.2 n=21
+ x.mesh l=3.4 n=25
+ x.mesh l=3.7 n=27
+ x.mesh l=3.8 n=28
+ x.mesh l=4.4 n=31
+
+ y.mesh l=-.05 n=1
+ y.mesh l=0.0  n=5
+ y.mesh l=.05  n=9
+ y.mesh l=0.3  n=14
+ y.mesh l=2.0  n=19
+
+ region num=1 material=1 y.l=0.0
+ material num=1 silicon
+ mobility material=1 concmod=sg fieldmod=sg
+ mobility material=1 elec major
+ mobility material=1 elec minor
+ mobility material=1 hole major
+ mobility material=1 hole minor
+
+ region num=2 material=2 y.h=0.0 x.l=0.7 x.h=3.7
+ material num=2 oxide
+
+ elec num=1 x.l=3.8 x.h=4.4	y.l=0.0 y.h=0.0
+ elec num=2 x.l=0.7 x.h=3.7	iy.l=1  iy.h=1
+ elec num=3 x.l=0.0 x.h=0.6	y.l=0.0 y.h=0.0
+ elec num=4 x.l=0.0 x.h=4.4	y.l=2.0 y.h=2.0
+
+ doping unif n.type conc=1e16   x.l=0.0 x.h=4.4  y.l=0.0 y.h=2.0
+ doping unif p.type conc=3e16   x.l=0.0 x.h=4.4  y.l=0.0 y.h=0.05
+ doping unif p.type conc=1e20   x.l=0.0 x.h=1.1  y.l=0.0 y.h=0.2
+ doping unif p.type conc=1e20   x.l=3.3 x.h=4.4  y.l=0.0 y.h=0.2
+
+ models concmob fieldmob bgn srh conctau
+ method ac=direct onec

.tran 0.1ns 16ns
.print tran v(3) v(33)
.plot tran v(3) v(33)
.options acct bypass=1 method=gear nopage
.end
